US05840749
To a flask was added a few drops of N,N-dimethylformamide and 32.25 g of 3-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl)propanoic acid in 500 ml of dry methylene chloride. The chilled stirring suspension was treated dropwise over several minutes with 11.0 ml of thionyl chloride. The suspension was warmed intermittently on a steam bath until all gas evolution ceased. The resulting solution was then allowed to reflux of 15 minutes and was allowed to stand at room temperature under nitrogen atmosphere overnight. The solution was concentrated in vacuo to an oil. The oil was dissolved in 500 ml of methylene chloride and was treated with another 11.0 ml of thionyl chloride. The solution was allowed to reflux for 3 hours and was again concentrated to an oil in vacuo. The oil still contained a significant amount of crystalline impurity, which was filtered away after triturating with a hexane/ether solution the supernatant was concentrated to an oil in vacuo which solidified overnight in refrigeration. The purified solids were recrystallized from three portions of cyclohexene to give 25.03 g of 3-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl)propanyl chloride, m.p. 69°-72° C.

reactant | 3-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl)propanoic acid | 32.25 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCC(=O)O | C17H14O4
reactant | thionyl chloride | 11.0 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 3-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl)propanyl chloride | 25.03 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCCCl | C17H15ClO2
